US04084050
In Situ Preparation of Perfluoro (N-methyl-3-oxo-morpholine)
To 253 g. (0.85 mol) of perfluoro-(N-methyl-morpholine) in a 300 ml. autoclave is added 72 g. (0.9 mol) of sulfur trioxide. The vessel is sealed, heated and rocked at 120° C. for 6 hrs. The autoclave is then cooled to 25° C., vented to release volatile materials and the residue charged to a 500 cc. flask equipped with magnetic stirrer, dropping funnel, condenser and thermometer. A solution of 195 g. of 96% sulfuric acid and 5 g. of H2C is added dropwise with stirring. The temperature is kept below 50° C. After the sulfuric acid is added the mixture is heated and stirred at reflux (55°-60° C.) for four hours. Distillation yields a large fraction, 207 g., b.p. 48°-65° C./740 mm., which consists of 45% by weight perfluoror-N-methyl-3-oxo-morpholine (40% conversion) and 15% by weight of higher boiling products believed to include perfluoro-(N-methyl-3,5dioxo-morpholine). Isolation of the pure amide (b.p. 59°-60° C./740 mm.) can be accomplished by distillation through a 25-plate column.

reactant | perfluoro-(N-methyl-morpholine) | 0.85 mol | FC1(N(C(C(OC1(F)F)(F)F)(F)F)C(F)(F)F)F | C5F11NO
reactant | sulfur trioxide | 0.9 mol | S(=O)(=O)=O | O3S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | perfluoro-(N-methyl-3,5dioxo-morpholine) | FC1(C(N(C(C(O1)(F)F)=O)C(F)(F)F)=O)F | C5F7NO3
product | Perfluoro (N-methyl-3-oxo-morpholine) | FC1(C(N(C(C(O1)(F)F)(F)F)C(F)(F)F)=O)F | C5F9NO2
